US03946065
Five hundred milligrams of 2-(6'-carboethoxyhexyl)-3,5-diacetyl-cyclopentanecarbonitrile and 600 mg of meta-chloroperbenzoic acid were dissolved in 30 ml of chloroform, and the solution was allowed to stand for 4 days at room temperature. The reaction mixture was then treated with a 5% solution of sodium iodide and then with a 10% solution of sodium thiosulfate. Five hundred (500) milligrams of the resulting oily substance was purified by chromatography on silica gel to yield 200 mg of 2-(6'-carboethoxyhexyl)-3,5-diacetoxy-cyclopentanecarbonitrile which has the following characteristics: Infrared absorption (film method): 2250, 1735, 1235, 1180; Nuclear magnetic resonance (in CDCL3 solvent): the absorption of the methyne protons at the 3- and 5-position were observed at about 4.9 and about 5.2; 4.10 (2H, multiplet signal), 2.05 (6H, two singlet signals acetoxymethyl proton).

reactant | 2-(6'-carboethoxyhexyl)-3,5-diacetyl-cyclopentanecarbonitrile | Five hundred milligrams | C(=O)(OCC)CCCCCCC1C(C(CC1C(C)=O)C(C)=O)C#N | C19H29NO4
reactant | meta-chloroperbenzoic acid | 600 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium iodide | [I-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(6'-carboethoxyhexyl)-3,5-diacetoxy-cyclopentanecarbonitrile | 200 mg | C(=O)(OCC)CCCCCCC1C(C(CC1OC(C)=O)OC(C)=O)C#N | C19H29NO6
